US07943609B2
1-((1S)-2-{[tert-Butyl(dimethyl)silyl]oxy}-1-methylethyl)-4-chloro-2-(chloromethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridine (440 mg, 1.09 mmol) was dissolved in 10 mL of THF and the yellow solution was cooled to −78° C. under an atmosphere of N2. A 1.0 M solution of tetrabutylammonium fluoride in THF (1.42 mL) was slowly added, and the reaction was allowed to warm to 0° C. overnight. The reaction was then treated with 20 mL of saturated NaHCO3 and 20 mL of CH2Cl2. The layers were separated and the organic portion was washed with brine (4×20 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to give (2S)-2-[4-chloro-2-(chloromethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]propan-1-ol (314 mg) as a tan solid. The tan solid was dissolved in 10 mL of anhydrous THF. The resulting yellow solution was cooled to 0° C. under an atmosphere of N2. Solid potassium tert-butoxide (116 mg, 1.42 mmol) was then added and the reaction was stirred at 0° C. for 1 hour and was then allowed to warm to ambient temperature. After 2 hours, the reaction mixture was partitioned between 20 mL of CH2Cl2 and 20 mL of saturated NaHCO3 solution. The layers were separated and the organic portion was washed sequentially with 20 mL of saturated NaHCO3 solution and 20 mL of brine, dried over Na2SO4, filtered and concentrated under reduced pressure to give (4S)-9-chloro-4,6,7-trimethyl-3,4-dihydro-1H-pyrido[3′,4′:4,5]imidazo[2,1-c][1,4]oxazine (270 mg) as an orange solid.

reactant | 1-((1S)-2-{[tert-Butyl(dimethyl)silyl]oxy}-1-methylethyl)-4-chloro-2-(chloromethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridine | 1.09 mmol, 440 mg | [Si](C)(C)(C(C)(C)C)OC[C@H](C)N1C(=NC=2C(=NC(=C(C21)C)C)Cl)CCl | C18H29Cl2N3OSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1.42 mL | C1CCOC1 | C4H8O
product | (2S)-2-[4-chloro-2-(chloromethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]propan-1-ol | 314 mg | ClC1=NC(=C(C2=C1N=C(N2[C@H](CO)C)CCl)C)C | C12H15Cl2N3O
